US06008213
g) Ethyl (±)-10,11-dihydro-3-hydroxy-5H-dibenzo[a,d]cycloheptene-10-acetate
Anhydrous AlCl3 (1.38 g, 10.35 mmol) was added all at once to a solution of ethyl (±)-10,11-dihydro-3-methoxy-5H-dibenzo[a,d]cycloheptene-10-acetate (643.6 mg, 2.07 mmol) in anhydrous CH2Cl2 (21 mL) at 0° C. under argon. The yellow solution was warmed to RT and stirred for 3 h, then was cooled to 0° C. and quenched with cold 3 N HCl (10 mL). The layers were separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried (MgSO4) and concentrated. Silica gel chromatography (25% EtOAc/hexanes) gave the title compound as a nearly colorless oil (611.7 mg, 100%): TLC Rf 0.26 (20% EtOAc/hexanes); 1H NMR (400 MHz, CDCl13) δ 7.03-7.22 (m, 4H), 6.93 (d, J=8.1 Hz, 1H), 6.69 (d, J=2.6 Hz, 1H), 6.58 (dd, J=8.1, 2.6 Hz, 1H), 5.00 (s, 1H), 4.25 (d, J=14.9 Hz, 1H), 4.11-4.25 (m, 2H), 3.73-3.88 (m, 1H), 3.79 (d, J=14.9 Hz, 1H), 3.28 (dd, J=15.0, 4.1 Hz, 1H), 2.91 (dd, J=15.0, 9.3 Hz, 1H), 2.65 (dd, J=15.6, 4.9 Hz, 1H), 2.53 (dd, J=15.6, 9.5 Hz, 1H), 1.27 (t, J=7.2 Hz, 3H); FTIR (CCl4) 3611 (sharp), 3447 (broad), 1734, 1504, 1291, 1272, 1176, 1152 cm-1 ; MS (ES) m/e 314.2 (M+NH4)+, 297.2 (M+H)+.

reactant | AlCl3 | 10.35 mmol, 1.38 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl (±)-10,11-dihydro-3-methoxy-5H-dibenzo[a,d]cycloheptene-10-acetate | 2.07 mmol, 643.6 mg | COC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C20H22O3
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (±)-10,11-dihydro-3-hydroxy-5H-dibenzo[a,d]cycloheptene-10-acetate | OC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C19H20O3
